US07732477B2
Methyl4-nitro-1-benzothiophene-2-carboxylate
1.0 g (5.10 mmol) of 2,6-dinitrobenzaldehyde, 0.54 g (5.10 mmol) of methyl mercaptoacetate and 1.42 ml (10.20 mmol) of triethylamine in 3 ml of DMSO are heated at 80° C. for 3.5 h. The reaction solution is poured into 100 ml of ice-water. The resulting precipitate is filtered off with suction, washed with water and dried at 50° C. under reduced pressure overnight. This gives 1.10 g (88.7% of theory) of the title compound.

reactant | 2,6-dinitrobenzaldehyde | 5.10 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=O)C(=CC=C1)[N+](=O)[O-] | C7H4N2O5
reactant | methyl mercaptoacetate | 5.10 mmol, 0.54 g | SCC(=O)OC | C3H6O2S
reactant | triethylamine | 10.20 mmol, 1.42 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | Methyl4-nitro-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C(=CC=C2)[N+](=O)[O-] | C10H7NO4S
